US04677190
POLYMERIZATION OF 2,6-DIOABICYCLO[2.2.2]OCTAN-3-ONE
Anionic polymerization was also done. This was carried out in tetrahydrofuran at 0° C. by using benzophenone monothithium complex as an initiator. After a specified time, a sufficient amount of acetic anhydride was added to the solution and the resulting mixture was stirred at room temperature for several hours. The separation and purification of the polymer were similar to those described for the cationic polymerization. IR (film) 1738 (νC=O), 1125 (νC-O-C) cm-1 ; 1H NMR (CDCl3) δ6.12 (H-2eq), 5.95 (H-2ax), 3.8 4.2 (2H-6), 2.5-2.8 (H-5), 1.6 2.2 (2H-3, 2H-4); Anal. Calcd. for (C6H8O3)n ; C 56, H 6.29. Found; C 56.28 H 6.11.

reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | OCTAN-3-ONE | CCC(CCCCC)=O | C8H16O
